US07125890B2
Under a nitrogen atmosphere, a solution of 5,6-dimethyl-2-phenoxy-N4-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}pyridine-3,4-diamine (4.12 g, 10.3 mmol) and pyridine hydrochloride (0.024 g, 0.21 mmol) in pyridine (30 mL) was cooled to 7° C. Ethoxyacetyl chloride (1.33 g, 10.9 mmol) was added, and the reaction was stirred for 30 minutes. The cloudy solution was then heated at 100° C. for 20 hours and then allowed to cool to room temperature. The volatiles were removed under reduced pressure, and the residue was partitioned between water and dichloromethane. The organic layer was washed with potassium carbonate (2×50 mL) and brine (2×50 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting oil was triturated with heptane to provide a solid that was isolated by filtration. 2-(Ethoxymethyl)-6,7-dimethyl-4-phenoxy-1-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}-1H-imidazo[4,5-c]pyridine (3.68 g) was obtained as a tan solid.

reactant | 5,6-dimethyl-2-phenoxy-N4-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}pyridine-3,4-diamine | 10.3 mmol, 4.12 g | CC=1C(=C(C(=NC1C)OC1=CC=CC=C1)N)NCCOCCCC=1SC=CN1 | C21H26N4O2S
reactant | Ethoxyacetyl chloride | 10.9 mmol, 1.33 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
catalyst | pyridine hydrochloride | 0.21 mmol, 0.024 g | Cl.N1=CC=CC=C1
product | 2-(Ethoxymethyl)-6,7-dimethyl-4-phenoxy-1-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}-1H-imidazo[4,5-c]pyridine | 3.68 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCCCC=1SC=CN1 | C25H30N4O3S
